US04143139
A solution of n-butyl lithium (29 ml. of 2.2M) is added dropwise to 3,5-dimethoxybenzyl triphenylphosphonium bromide (31.5 g.) in tetrahydrofuran (200 ml.) with stirring and the resulting deep red solution is stirred for one-half hour. Benzyl acetone (9.4 g.) is added dropwise and the reaction mixture stirred for 12 hours. It is then adjusted to pH 7 by addition of acetic acid and concentrated under reduced pressure. The residue is extracted with methylene chloride and the extract evaporated to give crude 1-(3,5-dimethoxyphenyl)-2-methyl-4-phenyl-1-butene as an oil. It is purified by chromatography on silica gel (400 g.) and elution with benzene. Yield: 10 g. as an oil.

reactant | n-butyl lithium | 2.2M, 29 ml | C(CCC)[Li]
reactant | 3,5-dimethoxybenzyl triphenylphosphonium bromide | 31.5 g | [Br-].COC=1C=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C1)OC
reactant | Benzyl acetone | 9.4 g | C(C1=CC=CC=C1)CC(C)=O | C10H12O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1-(3,5-dimethoxyphenyl)-2-methyl-4-phenyl-1-butene | COC=1C=C(C=C(C1)OC)C=C(CCC1=CC=CC=C1)C | C19H22O2
